US08022062B2
7-Chloro-6-(2-methoxycarbonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 347, using the 4:1 mixture of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 3-tert-butoxycarbonyl-7,9-dichloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-benzo[d]azepine with methyl 2-(bromomethyl)benzoate. Use a method similar to the General Procedure 1-4 and purify by preparative reverse phase HPLC (Column: Xterra Prep RP18 19×250 mm; solvent A: 10 mM aqueous ammonium carbonate, solvent B: acetonitrile; 30-100% B over 20 minutes; flow rate 25 mL/min). Use a method similar to the General Procedure 2-2, to give the title compound as a white solid. MS (ES+) m/z: 362 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 3-tert-butoxycarbonyl-7,9-dichloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2Cl)Cl)SC(N(C)C)=O | C18H24Cl2N2O3S
reactant | methyl 2-(bromomethyl)benzoate | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
product | 7-Chloro-6-(2-methoxycarbonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=C(C=CC=C1)C(=O)OC | InChI=1S/C19H20ClNO2S.ClH/c1-23-19(22)16-5-3-2-4-14(16)12-24-18-15-9-11-21-10-8-13(15)6-7-17(18)20;/h2-7,21H,8-12H2,1H3;1H
